US07399775B2
(3,6-Dichloropyridin-2-yl) (pyridine-4-yl)methanol
Under stirring at −78° C., tert-butyl lithium (1.51M pentane solution: 4.6 ml) was added dropwise to a solution of 2,5-dichloropyridine (1.02 g, 6.89 mmol) in ether (20 ml). After stirring at −78° C. for 2 hours, pyridin-4-carbaldehyde (0.65 ml, 6.89 mmol) was added to the reaction mixture. The resulting mixture was stirred at −78° C. for 1 hour. Water was added to the reaction mixture and the temperature was raised to room temperature. The mixture was extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate and filtered. The filtrate was then concentrated under reduced pressure. The residue thus obtained was subjected to chromatography on a silica gel column. A fraction obtained from the eluate with methanol:methylene chloride (1:50) was concentrated under reduced pressure. The solid thus obtained was washed with ether and collected by filtration, whereby the title compound (819 mg, 3.21 mmol, 47%) was obtained as a white powder.

reactant | tert-butyl lithium | 1.51M, 4.6 ml | C(C)(C)(C)[Li]
reactant | 2,5-dichloropyridine | 6.89 mmol, 1.02 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | pyridin-4-carbaldehyde | 6.89 mmol, 0.65 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | Water | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | (3,6-Dichloropyridin-2-yl) (pyridine-4-yl)methanol | 3.21 mmol, 819 mg, 47% | ClC=1C(=NC(=CC1)Cl)C(O)C1=CC=NC=C1 | C11H8Cl2N2O
